US04444788
(13E)-(8R,9R,11R,12R,15S,16RS)-9-Chloro-11,15-dihydroxy-16,19-dimethyl-13,18-prostadienoic Acid Methylsulfonylamide
103 mg of (13E)-(8R,9R,11R,12R,15S,16RS)-9-chloro-11,15-bis(tetrahydropyran-2-yloxy)-16,19-dimethyl-13,18-prostadienoic acid methylsulfonylamide was stirred for 24.5 hours under argon at room temperature with 1.9 ml of a mixture of acetic acid/water/tetrahydrofuran (65/35/10). Then the mixture was concentrated under vacuum and the residue purified by column chromatography on silica gel with hexane/0-100% ethyl acetate as the eluent, thus obtaining 34.3 mg of the title compound.

reactant | (13E)-(8R,9R,11R,12R,15S,16RS)-9-chloro-11,15-bis(tetrahydropyran-2-yloxy)-16,19-dimethyl-13,18-prostadienoic acid methylsulfonylamide | 103 mg | CS(=O)(=O)NC(CCCCCC[C@H]1[C@@H](C[C@H]([C@@H]1\C=C\[C@H](C(CC=C(C)C)C)OC1OCCCC1)OC1OCCCC1)Cl)=O | C33H56ClNO7S
solvent | acetic acid water tetrahydrofuran | C(C)(=O)O.O.O1CCCC1
product | (13E)-(8R,9R,11R,12R,15S,16RS)-9-Chloro-11,15-dihydroxy-16,19-dimethyl-13,18-prostadienoic Acid Methylsulfonylamide | 34.3 mg | CS(=O)(=O)NC(CCCCCC[C@H]1[C@@H](C[C@H]([C@@H]1\C=C\[C@H](C(CC=C(C)C)C)O)O)Cl)=O | C23H40ClNO5S
